US07456218B2
(2′,4′,6′-trimethylbiphenyl-3-yl)methanol
2′,4′,6′-Trimethylbiphenyl-3-carbaldehyde (2.36 g, 10.5 mmol) was dissolved in ethanol (20 mL), and sodium borohydride (0.40 g, 10.6 mmol) was added to the solution. After stirring under ice-cooling for 3 hrs., aqueous citric acid solution was added to the reaction solution. The mixture was extracted with ethyl acetate, washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:5-1:2) to give the title compound (1.66 g, yield 70%) as a colorless oil.

reactant | 2′,4′,6′-Trimethylbiphenyl-3-carbaldehyde | 10.5 mmol, 2.36 g | CC1=C(C(=CC(=C1)C)C)C1=CC(=CC=C1)C=O | C16H16O
reactant | sodium borohydride | 10.6 mmol, 0.40 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2′,4′,6′-trimethylbiphenyl-3-yl)methanol | 1.66 g, yield 70% | CC1=C(C(=CC(=C1)C)C)C1=CC(=CC=C1)CO | C16H18O
